US04067903
2-Tridecyl-naphthylamine
288 parts of β-naphthol, 9 parts of triphenyl phosphite and 418 parts of tridecylamine are heated to 175° C, whilst stirring. The elimination of water commences at this temperature and has ended after 10 hours, when the internal temperature is 230° C and 36 parts of water have been removed. Excess β-naphthol and amine are distilled off in vacuo. 2-Tridecyl-naphthylamine is then distilled at a boiling point of 225° C/3 mm Hg. 630 parts of end product are obtained, corresponding to a yield of 97% of theory.

reactant | β-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | tridecylamine | C(CCCCCCCCCCCC)N | C13H29N
solvent | water | O | H2O
product | 2-Tridecyl-naphthylamine | yield of 97% | C(CCCCCCCCCCCC)C1=C(C2=CC=CC=C2C=C1)N | C23H35N
